Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],3.14662538324
[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8],1.62753953831
[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([O:3]/[C:4]=[C:5](\[H:6])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7],2.53933117587
[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])[O:5][C:6][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-7.15717474768
[C:1]#[C:2].[C:3]#[C:4][O:5][C:6][H:7]>>[C:1]#[C:2][C:3]#[C:4][O:5][C:6][H:7],-6.98117181978
[O:1]=[C:2]([C:3]([O:4][H:5])=[C:6][H:7])[C:8]([H:9])[H:10]>>[O:1]=[C:2]1[C:3]([O:4][H:5])=[C:6]([H:7])[C:8]1([H:9])[H:10],-3.25111557697
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1],3.87597926932
[H:1][C:2]([H:3])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.60615454743
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16].[H:8],4.37442096901
[C:3](#[C:4][H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]>>[H:1][C:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-2.99690673797
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6].[C:7][H:8]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]#[C:7][H:8],-9.35443334395
[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[O:2]>>[O:1][O:2][C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.81592016392
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[H:1],3.78090711508
[C:3]([H:4])([H:5])=[C:6][O:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[O:11][H:12],-3.28688107756
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2](#[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1],1.8318396948
[C:7]([H:8])([H:9])[H:16].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.09511028454
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13],1.68156194877
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])[H:11].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7][H:8])[C:12]([H:13])([H:14])[H:15],6.43416476076
[C:1]#[C:2][C@@:3]([H:4])([O:5])[C:7]([H:8])([H:9])[H:10].[O:6]>>[C:1]#[C:2][C@:3]([H:4])([O:5][O:6])[C:7]([H:8])([H:9])[H:10],-2.7697694878900005
[H:1][O:2][C:3]([H:4])([H:5])[C:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6],4.82018027966
[H:1][C:2][O:3][C:4]([H:5])[C:6]#[C:7][C:8].[H:9]>>[H:1][C:2][O:3][C:4]([H:5])[C:6][C:7]#[C:8][H:9],-4.62213944318
[C:1]#[C:2][C:7]([O:6][C:3][O:4][H:5])([H:8])[H:9]>>[C:1][C:2]1=[C:3]([O:4][H:5])[O:6][C:7]1([H:8])[H:9],-1.53279211324
[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4][O:5][H:6],2.1532264274400004
[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:7].[O:1]=[C:2]=[C:3]([C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[O:11][H:12],4.03744312801
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1],3.70694381809
[H:1][O:2].[O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.16627472416
[H:1][C:2]1=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],1.64766460808
[C:9]([H:10])[H:11].[O:1]=[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11],-5.63730709416
